US06258812B1
1-Cyclopentylamino-4-(4-pyridylmethyl)phthalazine
A mixture of 0.3 g (1.173 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 0.4 g (4.692 mmol) cyclopentylamine is stirred for 6 h at 1 15° C. The cooled reaction mixture is then distributed between dichloromethane and saturated aqueous sodium hydrogen carbonate solution. The organic solution washed with brine and dried over anhydrous sodium sulfate is evaporated and the residue purified on silica gel by flash chromatography using acetate/methanol (9:1). Title compound is obtained after crystallization of the product-containing fractions from acetonitrile/water and drying under HV (8 h, 100° C.); m.p. 163-165° C.; ESI-MS: (M+H)+=305.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.173 mmol, 0.3 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | cyclopentylamine | 4.692 mmol, 0.4 g | C1(CCCC1)N | C5H11N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Cyclopentylamino-4-(4-pyridylmethyl)phthalazine | C1(CCCC1)NC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C19H20N4
